US09085555B2
(3-Aminomethyl-5-chloro-4-fluoro-phenyl)-diethyl-amine
was prepared according to Scheme C1 (step B) from (3-chloro-5-diethylamino-2-fluoro-benzyl)-carbamic acid tert-butyl ester and TFA in CH2Cl2. MS (LC-MS): 231.0 [M]+; tR (HPLC conditions c): 2.29 min.

reactant | (3-chloro-5-diethylamino-2-fluoro-benzyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)N(CC)CC)Cl)F)=O | C16H24ClFN2O2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (3-Aminomethyl-5-chloro-4-fluoro-phenyl)-diethyl-amine | NCC=1C=C(C=C(C1F)Cl)N(CC)CC | C11H16ClFN2
